US04561862
1-Dodecene (222 mL, 1.0 mole) and concentrated nitric acid (96 mL, 1.5 moles) were mixed together at room temperature. The solution was heated to 100° C. for 4 hours with rapid stirring then cooled to room temperature. The organic layer separated and washed with a saturated sodium chloride solution (3×75 mL). After drying over magnesium sulfate and filtering, the orange oil was vacuum distilled (0.5 Torr, 36° C.) which removed unreacted 1-dodecene. The remaining orange/red oil is a mixture containing 1-nitro-2-dodecene and 1-nitro-2-dodecanol. This oil was further reacted with methanesulfonyl chloride and triethylamine to dehydrate the alcohol and produce more 1-nitro-2-dodecene. After this dehydration step, the structure of 1-nitro-2-dodecene was confirmed by IR and GC analysis.

reactant | 1-Dodecene | 1.0 mole, 222 mL | C=CCCCCCCCCCC | C12H24
reactant | nitric acid | 1.5 moles, 96 mL | [N+](=O)(O)[O-] | HNO3
product | 1-nitro-2-dodecene | [N+](=O)([O-])CC=CCCCCCCCCC | C12H23NO2
